US07253286B2
N-[4-(6-Cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(thiazol-2-yl)urea
After adding dimethylsulfoxide (1 ml) and phenyl N-(2-thiazolyl)carbamate (94 mg) to 4-(4-amino-3-fluorophenoxy)-7-oxiranylmethoxyquinoline-6-carbonitrile (100 mg), the mixture was heated at 80° C. for 90 minutes. Water was added and the precipitated crystals were filtered out to obtain the title compound (16 mg) as light yellow crystals.

reactant | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | phenyl N-(2-thiazolyl)carbamate | 94 mg | S1C(=NC=C1)NC(OC1=CC=CC=C1)=O | C10H8N2O2S
reactant | 4-(4-amino-3-fluorophenoxy)-7-oxiranylmethoxyquinoline-6-carbonitrile | 100 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2OC2)C=C1)F | C19H14FN3O3
solvent | Water | O | H2O
product | N-[4-(6-Cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(thiazol-2-yl)urea | 16 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1OC1)OC1=CC(=C(C=C1)NC(=O)NC=1SC=CN1)F | C23H16FN5O4S
